US05571810
A mixture of 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxamide (0.3 g) and methanesulfonyl chloride (0.5 g) in pyridine (1.5 ml) was stirred at 50° C. for 3 hours. The mixture was poured into dilute hydrochloric acid. The precipitates were collected and washed with water to give 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbonitrile (0.25 g).

reactant | 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxamide | 0.3 g | C(=O)CNC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)N)C1=CC=C(C=C1)S(=O)(=O)C | C20H18N2O4S2
reactant | methanesulfonyl chloride | 0.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbonitrile | 0.25 g | C(=O)CNC1=CC=C(C=C1)C1=C(C=C(S1)C#N)C1=CC=C(C=C1)S(=O)(=O)C | C20H16N2O3S2
